US06235851B1
To 25 mmol of acetic acid were added 10 mmol of adamantane, 1 mmol of N-hydroxyphthalimide (NHPI) and a binary co-catalyst [0.03 mmol of acetylacetonatovanadium V(AA)3 and 0.02 mmol of actylacetonatomangan Mn(AA)3], and the resultant mixture was stirred in an oxygen atmosphere at a temperature of 75° C. for 6 hours. The products in the reaction mixture were analyzed by gas chromatography, and, as a result, the adamantane was converted into 1-adamantanol (yield: 37%). 1,3-adamantanediol (yield: 35%). 1,3,5-adamantanetriol (yield: 5%), 1,3,5,7-adamantane-tetranol (yield: 4%) with the adamantane conversion of 100%. The spectrum data of the 1,3,5,7-adamantanetetranol was as follows:

reactant | acetic acid | 25 mmol | C(C)(=O)O | C2H4O2
reactant | adamantane | 10 mmol | C12CC3CC(CC(C1)C3)C2 | C10H16
reactant | N-hydroxyphthalimide | 1 mmol | ON1C(C=2C(C1=O)=CC=CC2)=O | C8H5NO3
reactant | oxygen | O=O | O2
product | 1-adamantanol | yield: 37% | C12(CC3CC(CC(C1)C3)C2)O | C10H16O
